US06476059B1
13.26 g of 3-bromopyridine are dissolved in 160 ml of diethyl ether and cooled to −60° C. To this solution are added dropwise over the course of 30 minutes 52 ml of a 1.6 molar solution of n-butyllithium in n-hexane. The solution is allowed to warm to −30° C. and, at this temperature, 9.5 ml of trimethyl borate are added dropwise with stirring. The reaction mixture is subsequently heated under reflux for 3 hours and then cooled to 0° C., and 6.1 ml of 1,3-propanediol are added dropwise. This mixture is stirred at 0° C. for 30 minutes before adding 5.46 ml of methanesulfonic acid dropwise and stirring for a further 30 minutes. Then 20 g of Celite are added, the mixture is warmed to room temperature and filtered, the filtrate is concentrated, the residue is stirred in 700 ml of toluene and, after renewed filtration, the solvent is removed by distillation in vacuo. 4.1 g of the residue (3[1,3,2]dioxaborinan-2-ylpyridine) are dissolved, without further purification, together with 4.22 g of 5-bromo-1-indanone and 4.24 g of sodium carbonate in a mixture of 100 ml of toluene with 20 ml of ethanol and 20 ml of water. The solution is degassed with argon and then 112 mg of palladium(II) acetate and 262 mg of triphenylphosphine are added. The reaction mixture is boiled under reflux for 4 hours and cooled to room temperature, and the ethanol content in the mixture is removed by distillation in vacuo. Then 50 ml of a 0.5 N sodium hydroxide solution are added with stirring, the organic phase is separated off and the aqueous phase is extracted by shaking with toluene. The combined organic phases are extracted by shaking successively with water and saturated brine, dried over magnesium sulfate, concentrated in vacuo and purified by chromatography on silica gel with 1/1 ethyl acetate/n-heptane. 5-Pyridin-3-yl-1-indanone is obtained with a melting point of 103-106° C.

reactant | 3-bromopyridine | 13.26 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-butyllithium | C(CCC)[Li]
reactant | trimethyl borate | 9.5 ml | B(OC)(OC)OC | C3H9BO3
reactant | 1,3-propanediol | 6.1 ml | C(CCO)O | C3H8O2
reactant | methanesulfonic acid | 5.46 ml | CS(=O)(=O)O | CH4O3S
solvent | diethyl ether | 160 ml | C(C)OCC | C4H10O
solvent | n-hexane | CCCCCC | C6H14
product | 5-Pyridin-3-yl-1-indanone | N1=CC(=CC=C1)C=1C=C2CCC(C2=CC1)=O | C14H11NO
